US07268159B2
Synthesis of 1-(4-anilinobenzyl)-3-thien-2-yl-1H-indole-2-carboxylic acid
The title compound was prepared from 1-(4-amino-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester and phenylboronic acid followed the procedure of Example 16 as a light green solid: 1H NMR (DMSO-d6) δ 5.70 (s, 2H), 6.78 (td, J=7.4, 1.0 Hz, 1H), 6.98 (d, J=8.7 Hz, 2H), 7.01 (dd, J=8.5, 1.0 Hz, 2H), 7.04 (d, J=8.7 Hz, 2H), 7.16 (t, J=3.5 Hz, 1H), 7.17 (dd, J=5.2, 1.6 Hz, 2H), 7.21 (dd, J=6.9, 2.1 Hz, 2H), 7.33-7.37 (m, 1H), 7.61 (dd, J=5.1, 1.3 Hz, 1H), 7.66 (t, J=8.7 Hz, 2H), 8.12 (br s, 1H), 13.34 (br s, 1H); MS (ESI) m/z 425 (MH+); MS (ESI) m/z 423 ([M−H]−); HRMS calcd for C26H21N2O2S: 425.1321; found (ESI+): 425.1319.

reactant | 1-(4-amino-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C=1SC=CC1)CC1=CC=C(C=C1)N | C22H20N2O2S
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-(4-anilinobenzyl)-3-thien-2-yl-1H-indole-2-carboxylic acid | N(C1=CC=CC=C1)C1=CC=C(CN2C(=C(C3=CC=CC=C23)C=2SC=CC2)C(=O)O)C=C1 | C26H20N2O2S
